US04425342
To a solution of 4.90 g of 1-(2-pyridyl)piperazine in 150 ml of dichloromethane containing 4.59 ml of triethylamine is added dropwise with stirring under nitrogen a solution of 4.82 g of benzenesulfinyl chloride in 50 ml of dichloromethane. The reaction mixture is stirred for 3 hours at room temperature, diluted with 100 ml of dichloromethane, and washed with 150 ml water and 100 ml 5% potassium carbonate. The organic layer is dried over sodium sulfate and evaporated in vacuo to give a yellow crystalline solid. Recrystallization from ethanol affords 4.14 g of 1-(2-pyridyl)piperazine-4-benzenesulfinamide as a colorless crystalline solid, mp 83°-86° (soften 81°). A second crop (1.24 g) is obtained by concentration of the mother liquors, total yield: 5.38 g.

reactant | 1-(2-pyridyl)piperazine | 4.90 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzenesulfinyl chloride | 4.82 g | C1(=CC=CC=C1)S(=O)Cl | C6H5ClOS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2-pyridyl)piperazine 4-benzenesulfinamide | 4.14 g | N1=C(C=CC=C1)N1CCNCC1.C1=CC=C(C=C1)S(=O)N | InChI=1S/C9H13N3.C6H7NOS/c1-2-4-11-9(3-1)12-7-5-10-6-8-12;7-9(8)6-4-2-1-3-5-6/h1-4,10H,5-8H2;1-5H,7H2
